US06426345B1
A mixture of 2-(3-iodophenylamino)-3-nitropyridine (3.86 g), 4-vinylpyridine (1.78 g), palladium(II) acetate (80 mg), tetrabutylammonium chloride (3.14 g) and sodium bicarbonate (2.4 g) in N,N-dimethylformamide (20 ml) was stirred at 110° C. for 22 hours. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (chloroform-methanol (50:1)) to give 3-nitro-2-[3-[(E)-2-(4-pyridyl)vinyl]phenylamino]pyridine (1.41 g) as an orange solid.

reactant | 2-(3-iodophenylamino)-3-nitropyridine | 3.86 g | IC=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C11H8IN3O2
reactant | 4-vinylpyridine | 1.78 g | C(=C)C1=CC=NC=C1 | C7H7N
reactant | sodium bicarbonate | 2.4 g | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium chloride | 3.14 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-nitro-2-[3-[(E)-2-(4-pyridyl)vinyl]phenylamino]pyridine | 1.41 g | [N+](=O)([O-])C=1C(=NC=CC1)NC1=CC(=CC=C1)\C=C\C1=CC=NC=C1 | C18H14N4O2
